US05434165
1-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethylamino]-4-nitronaphthalene
1-Chloro-4-nitronaphthalene and 2-(1-azabicyclo-3.3.0]octan-5-yl)ethylamine were reacted in the same manner as in Example 1 to obtain the titled compound in a yield of 65.6%.

reactant | 1-Chloro-4-nitronaphthalene | ClC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6ClNO2
reactant | ethylamine | C(C)N | C2H7N
product | 1-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethylamino]-4-nitronaphthalene | yield of 65.6% | N12CCCC2(CCC1)CCNC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H23N3O2
